US09326973B2
A stirred suspension of 10% Pd—C (37.5 mg, 0.035 mmol) in a solution of ethyl 3,3-difluoro-2-methyl-3,6-dihydro-2H-pyran-2-carboxylate in EtOAc (10 mL) was hydrogenated under balloon pressure for 1 h. The suspension filtered and evaporated to dryness to yield ethyl 3,3-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylate as a clear oil (136 mg, 96%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.35-4.24 (m, 2H), 3.89-3.80 (m, 1H), 3.78-3.69 (m, 1H), 2.34-2.09 (m, 2H), 2.03-1.90 (m, 1H), 1.85-1.75 (m, 1H), 1.57-1.51 (m, J=1.5, 0.5 Hz, 3H), 1.34 (t, J=7.2 Hz, 3H).

reactant | ethyl 3,3-difluoro-2-methyl-3,6-dihydro-2H-pyran-2-carboxylate | FC1(C(OCC=C1)(C(=O)OCC)C)F | C9H12F2O3
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 0.035 mmol, 37.5 mg | [Pd] | Pd
product | ethyl 3,3-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylate | 136 mg, 96% | FC1(C(OCCC1)(C(=O)OCC)C)F | C9H14F2O3
